US03940394
2-[4-Chloro-6-(p-chlorobenzylamino)-2-pyrimidinylthio]propionic acid
A stirred mixture of 5.6 g of 2-(4,6-dichloro-2-pyrimidinylthio) propionic acid ethyl ester, 2.9 g of p-chlorobenzylamine and 2.1 g of anhydrous sodium carbonate in 50 ml. of ethanol were heated under reflux for 6 hr. The reaction mixture was filtered and taken to dryness on a rotary evaporator. The residue was dissolved in ether and filtered free of insoluble material. The ether was removed on a rotary evaporator and the residue was treated with approximately 10 ml. of 30% sodium hydroxide solution to which was added enough ethanol until a clear solution was obtained. The reaction mixture was heated on a steam bath for a few minutes then acidified with concentrated hydrochloric acid solution. The precipitate which was formed was recrystallized from 95% ethanol affording 5.0 g of product, mp. 133°-136°C.

reactant | 2-(4,6-dichloro-2-pyrimidinylthio) propionic acid ethyl ester | 5.6 g | C(C)OC(C(C)SC1=NC(=CC(=N1)Cl)Cl)=O | C9H10Cl2N2O2S
reactant | p-chlorobenzylamine | 2.9 g | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | sodium carbonate | 2.1 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 2-[4-Chloro-6-(p-chlorobenzylamino)-2-pyrimidinylthio]propionic acid | ClC1=NC(=NC(=C1)NCC1=CC=C(C=C1)Cl)SC(C(=O)O)C | C14H13Cl2N3O2S
